US07700633B2
B. 1-Bromomethyl-4-methoxy-2-vinylbenzene
To a solution of (4-methoxy-2-vinylphenyl)-methanol (7.90 g, 48.2 mmol) in diethyl ether (100 mL) at 0° C. is added PBr3 (5.0 mL, 53 mmol) over 1 min. Water is added carefully to destroy excess PBr3. The mixture is partitioned carefully between EtOAc and NaHCO3 (plus a small amount of KOH to adjust pH to 7˜8). The organic extract is dried with MgSO4 and concentrated to give the title compound and it is used directly in the next step: 1H NMR (CDCl3) δ 3.83 (s, 3H), 4.57 (s, 2H), 5.44 (dd, J=1, 11 Hz, 1H), 5.74 (dd, J=1, 17 Hz, 1H), 6.81 (dd, J=3, 8 Hz, 1H), 7.03 (d, J=2 Hz, 1H), 7.06 (dd, J=11, 17 Hz, 1H), 7.25 (d, J=8 Hz, 1H).

reactant | (4-methoxy-2-vinylphenyl)-methanol | 48.2 mmol, 7.90 g | COC1=CC(=C(C=C1)CO)C=C | C10H12O2
reactant | PBr3 | 53 mmol, 5.0 mL | P(Br)(Br)Br | Br3P
reactant | Water | O | H2O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 1-Bromomethyl-4-methoxy-2-vinylbenzene | BrCC1=C(C=C(C=C1)OC)C=C | C10H11BrO
